US06444679B1
2-[1-Benzyl-4-(3-methoxy-phenyl)-piperidin-4-yl]-5-(4,4-dimethyl-4,5-dihydro-oxazol-2-yl)-pyrimidine
To a stirring solution of 2-[1-Benzyl-4-(3-methoxy-phenyl)-piperidin-4-yl]-pyrimidine-5-carboxylic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide (350 mg, 0.745 mmol) and triphenylphosphine (290 mg, 1.11 mmol) in tetrahydrofuran (10 mL) at 0° C. was added diethylazodicarboxylate (0.174 mL, 1.11 mmol). The reaction slowly warmed to room temperature and stirred for 3 hours. The crude mixture was concentrated under reduce pressure and purified by flash chromatography with 2% MeOH/CH2Cl2 to afford 175 mg (%) of the desired product. 1HNMR (400 MHz, CDCl3) δ 9.12 (s, 2H), 7.33-7.26 (comp, 5H), 7.15 (t, 1H), 6.95-6.91 (comp, 2H), 6.68-4.65 (comp, 1H), 4.09 (s, 2H), 3.72 (s, 3H), 3.42 (br s, 2), 3.04 (br s, 2H), 2.83 (br s, 2H), 2.37 (br s, 2H), 2.03 (br s, 2H), 1.36 (s, 6H); MS (M+1) 457.1

reactant | 2-[1-Benzyl-4-(3-methoxy-phenyl)-piperidin-4-yl]-pyrimidine-5-carboxylic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide | 0.745 mmol, 350 mg | OCC(C)(C)NC(=O)C=1C=NC(=NC1)C1(CCN(CC1)CC1=CC=CC=C1)C1=CC(=CC=C1)OC | C28H34N4O3
reactant | triphenylphosphine | 1.11 mmol, 290 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 1.11 mmol, 0.174 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-[1-Benzyl-4-(3-methoxy-phenyl)-piperidin-4-yl]-5-(4,4-dimethyl-4,5-dihydro-oxazol-2-yl)-pyrimidine | C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC(=CC=C1)OC)C1=NC=C(C=N1)C=1OCC(N1)(C)C | C28H32N4O2
